US07026333B1
To a solution of 0.50 g (3.78 mmol) of L-isoasparagine in 5.0 mL H2O containing ˜45 mg (1.5 eq) of solid bicarbonate. To this was added a suspension of 1.02 g (3.78 mmol) quinaldic acid, N-hydroxysuccinamide ester in ethylene glycol dimethylether, and the suspension was solubilized by the addition of 10 mL of dimethylformamide. After 3 hours the solution was acidified by the addition of 5% HC1 (aqueous) and the product was filtered and washed with water, dried under vacuum to yield 750 mg (70% yield) of N-(2-quinolinylcarbonyl)-L-isoasparagine.

reactant | L-isoasparagine | 3.78 mmol, 0.50 g | N[C@@H](CC(=O)O)C(N)=O | C4H8N2O3
reactant | H2O | 5.0 mL, ˜45 mg, 1.5 eq | O | H2O
reactant | bicarbonate | C([O-])(O)=O
reactant | quinaldic acid | 3.78 mmol, 1.02 g | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
solvent | ethylene glycol dimethylether | COCCOC | C4H10O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(2-quinolinylcarbonyl)-L-isoasparagine | 750 mg, 70% yield | N1=C(C=CC2=CC=CC=C12)C(=O)N[C@@H](CC(=O)O)C(N)=O | C14H13N3O4
